US07902374B2
8.5 g (24.6 mmol) N-(4-bromo-2,6-dimethylphenyl)-2-(4-fluorophenyl)imidazole, 4.43 g (29.5 mmol) 3,5-dimethylphenylboronic acid, 0.17 g (0.74 mmol) palladium (II) acetate, 9.17 g (66.5 mmol) potassium carbonate and 0.65 g (2.46 mmol) triphenylphosphine were refluxed in 350 mL 1,2-dimethoxyethane and 130 mL water for 18 hours under N2 atmosphere. The cooled mixture was then transferred to a separatory funnel whereupon the water was removed. The organic material was then enriched with ethyl acetate and extracted from water. The organic layer was dried over anhydrous MgSO4, filtered and evaporated of solvent to give a light residue. The residue was then purified on a silica gel column using 50% ethyl acetate/hexanes as eluent. The pure fractions were evaporated of solvent the solids collected on a funnel with hexanes to give 8.34 g N-(2,6-dimethyl-4-{3,5-dimethylphenyl}phenyl)-2-(4-fluoro phenyl)imidazole as a bright white solid. MS confirmed.

reactant | N-(4-bromo-2,6-dimethylphenyl)-2-(4-fluorophenyl)imidazole | 24.6 mmol, 8.5 g | BrC1=CC(=C(C(=C1)C)N1C(=NC=C1)C1=CC=C(C=C1)F)C | C17H14BrFN2
reactant | 3,5-dimethylphenylboronic acid | 29.5 mmol, 4.43 g | CC=1C=C(C=C(C1)C)B(O)O | C8H11BO2
reactant | potassium carbonate | 66.5 mmol, 9.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 2.46 mmol, 0.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,2-dimethoxyethane | 350 mL | COCCOC | C4H10O2
catalyst | palladium (II) acetate | 0.74 mmol, 0.17 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | water | 130 mL | O | H2O
product | N-(2,6-dimethyl-4-{3,5-dimethylphenyl}phenyl)-2-(4-fluoro phenyl)imidazole | 8.34 g | CC1=C(C(=CC(=C1)C1=CC(=CC(=C1)C)C)C)N1C(=NC=C1)C1=CC=C(C=C1)F | C25H23FN2
